US05075313
To a solution of 3-(3-indolyl)propionic acid (6.0 g, 32 mmol) in 100 ml THF at room temperature was added 1,1-carbonyldiimidazole (5.14 g, 32 mmol). The reaction mixture was stirred under a dry atmosphere for 30 minutes, after which methyl anthranilate (4.79 g, 32 mmol) was added, and the reaction mixture was stirred at reflux for 30 minutes. No reaction was detected by thin layer chromatography (TLC). Pyridinium p-toluenesulfonate (PPTS) [6.36 g, 25 mmol] was added, and the mixture was stirred at reflux for two days. The reaction mixture was allowed to cool, and the solvent was removed in vacuo. The resulting product was taken up in ethyl acetate and washed (lN HCl, H2O, saturated NaHCO3, and brine) and dried over anhydrous magnesium sulfate. Concentration in vacuo provided a light yellow solid which, when triturated with ethyl acetate/hexane, gave, upon filtration, 7.19 g (70% yield) of 3-(3-indolyl)-N-(2-methoxycarbonylphenyl)propionamide as an off white granular solid.

reactant | 3-(3-indolyl)propionic acid | 32 mmol, 6.0 g | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | methyl anthranilate | 32 mmol, 4.79 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | Pyridinium p-toluenesulfonate | 25 mmol, 6.36 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(3-indolyl)-N-(2-methoxycarbonylphenyl)propionamide | 7.19 g, 70% yield | N1C=C(C2=CC=CC=C12)CCC(=O)NC1=C(C=CC=C1)C(=O)OC | C19H18N2O3
